US08808703B2
To a solution of (R)-3-((R)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(1-(hydroxymethyl)-cyclopropylamino)-3-oxopropylthio)propane-1,2-diyl didodecanoate (1 eq) was added 20% piperidine (50 eq) in acetonitrile. The resulting gel was diluted with DCM and sonicated for 3 minutes. The mixture was added to toluene and then concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 100% EtOAc then 0-10% MeOH/DCM to give (R)-3-((R)-2-amino-3-(1-(hydroxymethyl)cyclopropylamino)-3-oxopropylthio)propane-1,2-diyl didodecanoate as an off white solid. 1H NMR (CDCl3): δ 7.85 (br s, 1H), 5.11-5.18 (m, 1H), 4.36 (dd, 1H), 4.14 (dd, 1H), 4.05 (br s, 1H), 3.59 (q, 2H), 3.50 (dd, 1H), 3.06 (dd, 1H), 2.80 (dd, 1H), 2.68-2.76 (m, 2H), 2.32 (q, 4H), 1.51-1.68 (m, 4H), 1.19-1.35 (m, 32H), 0.90-0.94 (m, 2H), 0.88 (t, 6H), 0.79-0.83 (m, 2H). LRMS [M+H]=629.5.

reactant | (R)-3-((R)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(1-(hydroxymethyl)-cyclopropylamino)-3-oxopropylthio)propane-1,2-diyl didodecanoate | 1 eq | C(CCCCCCCCCCC)(=O)OC[C@H](CSC[C@@H](C(=O)NC1(CC1)CO)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)OC(CCCCCCCCCCC)=O | C49H74N2O8S
reactant | piperidine | 50 eq | N1CCCCC1 | C5H11N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-3-((R)-2-amino-3-(1-(hydroxymethyl)cyclopropylamino)-3-oxopropylthio)propane-1,2-diyl didodecanoate | C(CCCCCCCCCCC)(=O)OC[C@H](CSC[C@@H](C(=O)NC1(CC1)CO)N)OC(CCCCCCCCCCC)=O | C34H64N2O6S
